US05538940
Preparation of methyl 2-[2-(4-benzyloxyphenyl)-(E)-ethenyl]-(E)-β-methoxycinnamate (Compound No. 1a.264 in Table 1a).
A solution of 3.0 g (10 mmol) of dimethyl (E)-2-(1-methoxy-2-methoxycarbonylethenyl)benzylphosphonate and 2.1 g (10 mmol) of 4-benzyloxybenzaldehyde in 50 ml of dimethylformamide is added dropwise at room temperature to 0.26 g (11 mmol) of NaH in 20 ml of dimethylformamide. The mixture is stirred for 3 h, and then NH4Cl solution is added. After extraction with ethyl acetate, the organic phase is washed with water, dried over Na2SO4 and concentrated. Recrystallization from diisopropyl ether/n-hexane results in 1.9 g (48%) of pale yellow crystals of methyl 2-[2-(4-benzyloxyphenyl)-(E)-ethenyl]-(E)-β-methoxycinnamate of melting point 118°-120° C.

reactant | dimethyl (E)-2-(1-methoxy-2-methoxycarbonylethenyl)benzylphosphonate | 10 mmol, 3.0 g | CO\C(=C\C(=O)OC)\C1=C(CP(OC)(OC)=O)C=CC=C1 | C14H19O6P
reactant | 4-benzyloxybenzaldehyde | 10 mmol, 2.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | NaH | 11 mmol | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 2-[2-(4-benzyloxyphenyl)-(E)-ethenyl]-(E)-β-methoxycinnamate | 1.9 g, 48% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/C1=C(\C(=C/C(=O)OC)\OC)C=CC=C1 | C26H24O4
